US04698364
Dimethyl 4-chloro-2,2'-thiodibenzoate (6.72 g) was dissolved in methylene chloride. To the solution was added m-chloroperbenzoic acid (4 g) and the solution was stirred at room temperature for 6 hours. The reaction mixture was poured into a 10% aqueous sodium hydroxide solution and extracted with methylene chloride. The methylene chloride extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered, and the filtrate was evaporated to give a product. The product was suspended into a 20% aqueous sodium hydroxide solution and heated at 60° C. for 3 hours. After cooling, the solution was acidified with 6N HCl to give a precipitate. Recrystallization from aqueous methanol gave 4-chloro-2,2'-sulfinyldibenzoic acid (compound No. 25) in an amount of 4.5 g (yield: 70%). m.p. 279-281° C.

reactant | Dimethyl 4-chloro-2,2'-thiodibenzoate | 6.72 g | ClC1=CC(=C(C(=O)OC)C=C1)SC1=C(C(=O)OC)C=CC=C1 | C16H13ClO4S
reactant | m-chloroperbenzoic acid | 4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-chloro-2,2'-sulfinyldibenzoic acid | yield: 70% | ClC1=CC(=C(C(=O)O)C=C1)S(=O)C1=C(C(=O)O)C=CC=C1 | C14H9ClO5S
